US04284639
The base was liberated from the 1-(4-chlorophenoxy)-2-(2,4-dichlorophenyl)-1-(1,2,4-triazol-1-yl)-ethan-2-one naphthalene-1,5-disulphonate, obtained according to Example 1, by adding sodium bicarbonate solution, and was taken up in ethyl acetate and converted, with ethereal hydrochloric acid, into the hydrochloride, which crystallized out after standing for a long time in ether. 1-(4-Chlorophenoxy)-2-(2,4-dichlorophenyl)-1-(1,2,4-triazol-1-yl)-ethan-2-one hydrochloride of melting point 138°-140° C. was quantitatively obtained.

reactant | 1-(4-chlorophenoxy)-2-(2,4-dichlorophenyl)-1-(1,2,4-triazol-1-yl)-ethan-2-one naphthalene-1,5-disulphonate | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O.ClC1=CC=C(OC(C(=O)C2=C(C=C(C=C2)Cl)Cl)N2N=CN=C2)C=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-Chlorophenoxy)-2-(2,4-dichlorophenyl)-1-(1,2,4-triazol-1-yl)-ethan-2-one hydrochloride | Cl.ClC1=CC=C(OC(C(=O)C2=C(C=C(C=C2)Cl)Cl)N2N=CN=C2)C=C1 | InChI=1S/C16H10Cl3N3O2.ClH/c17-10-1-4-12(5-2-10)24-16(22-9-20-8-21-22)15(23)13-6-3-11(18)7-14(13)19;/h1-9,16H;1H
